US07223782B2
1-(4-Chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride (0.100 g, 0.324 mmol) was added to a solution of 4-aminopyridine (0.036 g, 0.387 mmol) and pyridine (0.078 mL, 0.969 mmol) in acetonitrile (10 mL). The reaction mixture was heated at 60° C. for 12 h, concentrated and the crude product was purified by column chromatography on silica gel to give 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid pyridine-4-ylamide. LCMS m/z=366.9 (M+H)+.

reactant | 1-(4-Chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carbonyl chloride | 0.324 mmol, 0.100 g | ClC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)Cl | C11H5Cl2F3N2O
reactant | 4-aminopyridine | 0.387 mmol, 0.036 g | NC1=CC=NC=C1 | C5H6N2
reactant | pyridine | 0.969 mmol, 0.078 mL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(4-chloro-phenyl)-5-trifluoromethyl-1H-pyrazole-4-carboxylic acid pyridine-4-ylamide | N1=CC=C(C=C1)NC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=C(C=C1)Cl | C16H10ClF3N4O
